US04654167
(b) Preparation of 1-(p-methoxycyclohexyl)-propan-1-ol
A mixture of 100 g of p-methoxypropiophenone, 250 ml of methanol and 5 g of a 5% strength ruthenium/active carbon catalyst was hydrogenated at 120° C. and under 150 bar until absorption of hydrogen was virtually complete. The catalyst was removed, the solvent was distilled off under 1013 mbar and the residue was then fractionated. 92 g of a colorless liquid having a boiling point of 73°-75° C. 0.01 mbar and a fine woody note were obtained.

reactant | p-methoxypropiophenone | 100 g | COC1=CC=C(C=C1)C(CC)=O | C10H12O2
catalyst | ruthenium | [Ru] | Ru
solvent | methanol | 250 ml | CO | CH4O
product | 1-(p-methoxycyclohexyl)-propan-1-ol | COC1CCC(CC1)C(CC)O | C10H20O2
